US04881965
Synthesis of 4-allylcarbonyl-1-(2-pyridyl)pyrazole-5-sulfonamide
To a mixture of 2.2 of 4-carboxy-1-(2-pyridyl)pyrazole-5-sulfonamide and 20 ml of allyl alcohol, 1 ml of methanesulfonic acid was added, followed by stirring at 110° C. for 18 hours. The reaction mixture was concentrated under reduced pressure, and purified by silica gel chromatography to obtain 0.7 g of the title compound. m.p.: 140° to 142° C.

reactant | 4-carboxy-1-(2-pyridyl)pyrazole-5-sulfonamide | C(=O)(O)C=1C=NN(C1S(=O)(=O)N)C1=NC=CC=C1 | C9H8N4O4S
reactant | methanesulfonic acid | 1 ml | CS(=O)(=O)O | CH4O3S
reactant | allyl alcohol | 20 ml | C(C=C)O | C3H6O
product | 4-allylcarbonyl-1-(2-pyridyl)pyrazole-5-sulfonamide | 0.7 g | C(C=C)C(=O)C=1C=NN(C1S(=O)(=O)N)C1=NC=CC=C1 | C12H12N4O3S
